US07115611B2
A] (2-Methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethylsulfanyl}-phenoxy)-acetic acid tert-butyl ester
0.224 g (0.75 mmol) of [rac]-3-(1-chloro-ethyl)-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine and 0.222 g (0.75 mmol) of (4-acetylsulfanyl-2-methyl-phenoxy)-acetic acid tert-butyl ester (prepared by standard acetylation of (4-mercapto-2-methyl-phenoxy)-acetic acid tert-butyl ester, described below in example 28A)-C]) were dissolved in 3.9 ml of acetonitrile and 0.2 ml of MeOH and treated with 0.292 g (1.2 eq.) of Cs2CO3. The reaction was then allowed to proceed over night. Pouring onto crashed ice, twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=9/1), afforded in the less polar fractions 0.210 g of pure title compound and in the more polar fractions 0.112 g of the corresponding methyl ester as waxy solid.

reactant | [rac]-3-(1-chloro-ethyl)-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | 0.75 mmol, 0.224 g | ClC(C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C15H13ClF3N
reactant | (4-acetylsulfanyl-2-methyl-phenoxy)-acetic acid tert-butyl ester | 0.75 mmol, 0.222 g | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SC(C)=O)C)=O | C15H20O4S
reactant | (4-mercapto-2-methyl-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C=C(C=C1)S)C)=O | C13H18O3S
reactant | Cs2CO3 | 0.292 g, 1.2 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 3.9 ml | C(C)#N | C2H3N
solvent | MeOH | 0.2 ml | CO | CH4O
product | (2-Methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethylsulfanyl}-phenoxy)-acetic acid tert-butyl ester | 0.210 g | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SC(C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C28H30F3NO3S
